US09428456B2
1-(6-Bromo-pyridin-2-ylmethyl)-piperidine-4-carboxylic acid cyclohexylamide K-2
The title compound is prepared according to the reaction 3.01c described above using 6-bromo-pyridine-2-carboxaldehyde and piperidine-4-carboxylic acid cyclohexylamide hydrochloride as in 3.01c: LC-MS A: tR=0.61 min; [M+H]+=382.20.

reactant | 6-bromo-pyridine-2-carboxaldehyde | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | piperidine-4-carboxylic acid cyclohexylamide hydrochloride | Cl.C1(CCCCC1)NC(=O)C1CCNCC1
product | 1-(6-Bromo-pyridin-2-ylmethyl)-piperidine-4-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1CCN(CC1)CC1=NC(=CC=C1)Br | C18H26BrN3O
